US07348438B2
1-(4-Benzyloxy-benzyl)-5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
NaH (60%) (120 mg, 3 mmol) was added into a solution of dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole. 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1H-indole (538 mg, 2 mmol) in DMF (5 ml) at 0° C. The resulting mixture was stirred at 0° C. for half hour. 4-benzyloxy-benzyl chloride (698 mg, 3 mmol) and potassium iodide (498 mg, 3 mmol) were then added to the reaction mixture at 0° C. The reaction temperature was raised to 25° C. and then the reaction mixture was stirred for 18 hours. NH4Cl (aq.) was added and extracted with EtOAc. The organic layer was washed with brine, then dried over anhydrous MgSO4. The solvent was distilled out under reduced pressure. Column chromatography (silica gel, EtOAc/hexanes (0% to 70%) yielded the title compound as a yellow solid.

reactant | NaH | 3 mmol, 120 mg | [H-].[Na+]
reactant | dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC=CC=2N(C(=NC21)CC(F)(F)F)Cl | C9H5Cl2F3N2
reactant | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1H-indole | 2 mmol, 538 mg | ClC=1C=C2C=C(NC2=CC1Cl)CC(F)(F)F | C10H6Cl2F3N
reactant | 4-benzyloxy-benzyl chloride | 3 mmol, 698 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | potassium iodide | 3 mmol, 498 mg | [I-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(4-Benzyloxy-benzyl)-5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | C(C1=CC=CC=C1)OC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)Cl)Cl)CC(F)(F)F)C=C1 | C23H17Cl2F3N2O
